US04587262
3,3-Dimethylglutaric anhydride (5.0 g.) and benzyl alcohol (11 ml.) were heated together at 150° C. for 16 hours. The cooled reaction mixture was partitioned between saturated sodium carbonate solution (50 ml.) and ether (50 ml.). The aqueous layer was separated, acidified with 2M hydrochloric acid and extracted with ether. The extracts were evaporated. The residual yellow oil (4.6 g.) was purified by chromatography on silica gel with methylene chloride as eluant to give benzyl hydrogen 3,3-dimethylglutarate as an oil (1.5 g.); NMR (CDCl3): 1.1 (6H,s, CH3), 2.45+2.47 (4H, 2s, COCH2), 5.12 (2H,s, OCH2), 7.37 (5H, s, aromatic H), 8.45 (1H, br.s, CO2H)ppm. This benzyl ester (1.5 g.) was dissolved in methylene chloride (15 ml.) and stirred with thionyl chloride (2.2 ml.) and N,N-dimethylformamide (DMF) (0.3 ml.) for 3 hours. The solvent was evaporated and the residue was dissolved in dry toluene (15 ml.) and the solution re-evaporated. This was repeated twice to remove excess thionyl chloride. The residual oil (1.5 g.) containing crude benzyl 4-chloroformyl-3,3-dimethylbutyrate was dissolved in methylene chloride (25 ml.). The solution was added to a cooled solution of 1,3-dipalmitin (1.4 g.) in methylene chloride (25 ml.) containing pyridine (0.32 ml.). The mixture was stirred for 2 hours at 0°-5° C. and then for 46 hours at ambient temperature. The solvent was evaporated and the residue was partitioned between ether (70 ml.) and water (3×25 ml.). The organic phase was washed with 2M hydrochloric acid, saturated sodium hydrogen carbonate solution (2×25 ml.) and finally with water (2×25 ml.), and then dried (MgSO4) and evaporated. The residual oil crystallised on treatment with ethanol to give 2-hexadecanoyloxy-1-(hexadecanoyloxymethyl)ethyl 4-benzyloxycarbonyl-3,3-dimethylbutyrate as a white solid (2.5 g.).

reactant | 3,3-Dimethylglutaric anhydride | 5.0 g | CC1(CC(=O)OC(C1)=O)C | C7H10O3
reactant | benzyl alcohol | 11 ml | C(C1=CC=CC=C1)O | C7H8O
product | benzyl hydrogen 3,3-dimethylglutarate | CC(CC(=O)OCC1=CC=CC=C1)(CC(=O)O)C | C14H18O4
